US04952710
Lithium thienyl copper(I) cyanide was prepared according to the method of B. Lipshutz, et al., Tetrahedran Letters, 1987, 28, 945. To a cooled (-30° C.) tetrahydrofuran (100 mL) solution of thiophene (freshly distilled, 15.96 g, 15.2 mL, 0.19 mole) was added n-butyllithium (2.4 M in hexane, 79.2 mL, 0.19 mole) dropwise, via syringe, at a rate such that the temperature did not exceed -17° C. The homogenous mixture was was stirred at -25° C. for 5 min, warmed to 0° C. for 30 min and then recooled to -25° C. This solution was then added via cannula to a vigorously stirred suspension of copper(I) cyanide (16.91 g, 0.19 mole) in cooled (-25° C.) tetrahydrofuran (120 mL) at such a rate that the temperature did not exceed -20° C. The initial hsterogenous mixture was stirred at .25° C. for 1.5 h during which time all the solids dissolved resulting in a deep amber colored homogeneous solution of lithium thienyl copper(I) cyanide.

reactant | Tetrahedran | C12C3C1C23 | C4H4
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 0.19 mole, 2.4 M, 79.2 mL | C(CCC)[Li]
reactant | copper(I) cyanide | 0.19 mole, 16.91 g | [Cu]C#N
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | lithium thienyl copper(I) cyanide | S1C(=CC=C1)[Cu-]C#N.[Li+] | InChI=1S/C4H3S.CN.Cu.Li/c1-2-4-5-3-1;1-2;;/h1-3H;;;/q;;-1;+1
